US08030500B2
2-(3-Bromobenzoyl)-6-fluorobenzonitrile
A solution of copper(I) cyanide (4.70 g, 52.50 mmol) and lithium bromide (2.63 mL, 105.00 mmol) in THF (65 mL) was added to (2-cyano-3-fluorophenyl)zinc(II) iodide (100 mL, 50 mmol) at −78° C. under an argon atmosphere. The mixture was stirred at r.t. for 1 h and then cooled to −78° C. 3-Bromobenzoyl chloride (6.94 mL, 52.50 mmol) was added dropwise and the mixture was stirred at r.t. for 4 h. NH4Cl (50 mL, sat aq) was added followed by water (50 mL). The THF was removed in vacuo and the aqueous residue was diluted with water (100 mL) and DCM (150 mL). A precipitate was filtered off and the filtrate was added to a separation funnel. The organic layer was separated and the water phase extracted with DCM (100 mL). The combined organics were washed with brine (150 mL), dried over MgSO4, concentrated and purified on a silica gel column eluted with DCM to give the title compound (13.37 g, 88% yield): MS (ES+) m/z 304, 306 [M+H]+.

reactant | copper(I) cyanide | 52.50 mmol, 4.70 g | [Cu]C#N
reactant | lithium bromide | 105.00 mmol, 2.63 mL | [Br-].[Li+]
reactant | (2-cyano-3-fluorophenyl)zinc(II) iodide | 50 mmol, 100 mL | [I-].C(#N)C1=C(C=CC=C1F)[Zn+]
reactant | 3-Bromobenzoyl chloride | 52.50 mmol, 6.94 mL | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-(3-Bromobenzoyl)-6-fluorobenzonitrile | 13.37 g, 88% yield | BrC=1C=C(C(=O)C2=C(C#N)C(=CC=C2)F)C=CC1 | C14H7BrFNO
